US05744471
7-Chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione N-methylglucamine salt.
7-Chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino-[4,5-b]quinoline-1,10-dione (0.45 g, 1.17 mM) was stirred in methanol (20 mL) and N-Methyl-D-Glucamine (0.23 g, 1.17 mM) was added to give a clear yellow solution. This solution was concentrated and the residue was dissolved in water (20 mL) to give a yellow solution. This solution was filtered through a Gellman 0.45 um Acrodisc and concentrated to give a yellow residue. The residue was triturated with 2-propanol (20 mL) to givea yellow suspension. The solids were collected and washed with 2-propanol to give the title compound (0.20 g, 29%) as a yellow powder, mp=177° C. (decomp.).

reactant | 7-Chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino-[4,5-b]quinoline-1,10-dione | 1.17 mM, 0.45 g | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=C(C=C(C=C3)OC)C)O)=O | C19H14ClN3O4
reactant | N-Methyl-D-Glucamine | 1.17 mM, 0.23 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | methanol | 20 mL | CO | CH4O
product | 7-Chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione N-methylglucamine salt | 0.20 g, 29% | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=C(C=C(C=C3)OC)C)O)=O | InChI=1S/C19H14ClN3O4.C7H17NO5/c1-9-7-11(27-2)4-6-14(9)23-19(26)15-16(18(25)22-23)21-13-8-10(20)3-5-12(13)17(15)24;1-8-2-4(10)6(12)7(13)5(11)3-9/h3-8H,1-2H3,(H,21,24)(H,22,25);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
